US05204441
A mixture of 1,10-diazido-3-trifluoromethyl-3,4,4,5,5,6,6,7,7,8,8-undecafluorodecane (7.2 g, 14.7 mmol), methanol (40 mL), Pearlman's catalyst (0.6 g) and a solution of hydrazine (1.1 g, 36 mmol) in methanol (5 mL) was heated under reflux for 21 hours. The mixture was diluted with methanol and filtered through a pad of celite. Methanol was evaporated and the residue was distilled to give 2.5 g (39%) of 1,10-diamino-3-trifluoromethyl-3,4,4,5,5,6,6,7,7,8,8-undecafluorodecane, a colorless oil; bp 0.2 mm, 85°-95° C./0.2 mm; Glc (OV-17, 110° C. to 260° C. at 16° C./min) RT 5.4 min; IR (neat) 3350, 3050, 2975 and 1050-1380 cm-1 ; 1H NMR (CDCl3) δ 3.0 (t, J=6 Hz, 4H), 2.20 (m, 4H) and 1.23 (s, 4H). Anal Calcd for C11H12F 14 N2 : C, 30.15; H, 2.76; F, 60-70. Found: C, 29.85; H, 2.36; F, 60.32.

reactant | 1,10-diazido-3-trifluoromethyl-3,4,4,5,5,6,6,7,7,8,8-undecafluorodecane | 14.7 mmol, 7.2 g | N(=[N+]=[N-])CCC(C(C(C(C(C(CCN=[N+]=[N-])(F)F)(F)F)(F)F)(F)F)(F)F)(F)C(F)(F)F | C11H8F14N6
reactant | hydrazine | 36 mmol, 1.1 g | NN | H4N2
catalyst | Pearlman's catalyst | 0.6 g | [OH-].[OH-].[Pd+2]
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
product | 1,10-diamino-3-trifluoromethyl-3,4,4,5,5,6,6,7,7,8,8-undecafluorodecane | 2.5 g, 39% | NCCC(C(C(C(C(C(CCN)(F)F)(F)F)(F)F)(F)F)(F)F)(F)C(F)(F)F | C11H12F14N2
